US07078414B2
0.504 g (12.2 mmol) of lithium hydroxide monohydrate is added to 0.8 g (3.04 mmol) of 3-methoxycarbonyl-4-methyl-1-(quinolin-5-yl)-1H-pyrrole dissolved in 25 mL of tetrahydrofuran and 25 mL of water at a temperature in the region of 20° C. After stirring for 30 hours at the reflux temperature of the solvent, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 20 mL of water and then neutralized with 1 N hydrochloric acid. The mixture is filtered, and the solid residue obtained is dried, giving 0.5 g of 3-carboxy-4-methyl-1-(quinolin-5-yl)-1H-pyrrole in the form of a cream-colored solid, melting above 260° C., which is used directly in the following step.

reactant | lithium hydroxide monohydrate | 12.2 mmol, 0.504 g | O.[OH-].[Li+]
reactant | 3-methoxycarbonyl-4-methyl-1-(quinolin-5-yl)-1H-pyrrole | 3.04 mmol, 0.8 g | COC(=O)C1=CN(C=C1C)C1=C2C=CC=NC2=CC=C1 | C16H14N2O2
reactant | water | 25 mL | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 3-carboxy-4-methyl-1-(quinolin-5-yl)-1H-pyrrole | 0.5 g | C(=O)(O)C1=CN(C=C1C)C1=C2C=CC=NC2=CC=C1 | C15H12N2O2
